US04673692
1.60 g of 3,5-di-t-butyl-4-hydroxybenzophenone and 0.67 g of semicarbazide hydrochloride were dissolved in 12 ml of pyridine, and the solution was refluxed for 6 hours. After the reaction, ethyl acetate was added to the reaction mixture, and the mixture was washed with 5% hydrochloric acid and water and dried. The solvent was removed by concentration, and the residue was chromatographed on a silica gel column and recrystallized from diethyl ether to give 3,5-di-t-butyl-4-hydroxybenzophenone semicarbazone.

reactant | 3,5-di-t-butyl-4-hydroxybenzophenone | 1.60 g | C(C)(C)(C)C=1C=C(C(=O)C2=CC=CC=C2)C=C(C1O)C(C)(C)C | C21H26O2
reactant | semicarbazide hydrochloride | 0.67 g | Cl.NNC(=O)N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | 3,5-di-t-butyl-4-hydroxybenzophenone semicarbazone | C(C)(C)(C)C=1C=C(C(C2=CC=CC=C2)=NNC(=O)N)C=C(C1O)C(C)(C)C | C22H29N3O2
